US04021475
Bis(p-chlorophenoxymethyl) Ether
A solution of 16.2 g (0.1 mole) of bis(acetoxymethyl) ether and 39 g (0.30 mole) of p-chlorophenol in 80 ml of o-dichlorobenzene were treated with 1.0 g of neutral aluminum oxide (80-240 mesh) and heated to reflux (pot temp. 180°-185° C.). Distillate was removed at about 10 ml/hr over a 4 hour period. The reaction mixture was filtered hot, stripped in vacuo, and triturated with light petroleum ether to furnish 19.0 g (61% yield) of product, mp 53.5°-4° C.

reactant | bis(acetoxymethyl) ether | 0.1 mole, 16.2 g | C(C)(=O)OCOCOC(C)=O | C6H10O5
reactant | p-chlorophenol | 0.30 mole, 39 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | aluminum oxide | 1.0 g | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | o-dichlorobenzene | 80 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Bis(p-chlorophenoxymethyl) Ether | 19.0 g, 61% yield | ClC1=CC=C(OCOCOC2=CC=C(C=C2)Cl)C=C1 | C14H12Cl2O3
